### PR TITLE
add big_condT

### PR DESCRIPTION
**Pull request by Tragicus**
##### Motivation for this change

Adds `big_condT` to `bigop.v`, which is believed to be more beginner friendly. I am not sure of the placement, though. It is a trivial consequence of `big_mkcondr` but does not require a `Monoid._law` structure. Yet it requires a finite index type, so it does not fit in section `SeqExtension` with e.g. `big_andbC`. Also, it could be generalized to `big_andbT` (which would not be as beginner friendly as `big_condT`).

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- ~[ ] added corresponding documentation in the headers~
- [x] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)

##### Compatibility with MathComp 1.X

- [ ] I added the label `TODO: MC-1 port` to make sure someone ports this PR to
      the `mathcomp-1` branch **or** I already opened an issue or PR (please cross reference).

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) and put a milestone if possible.

### CODE REVIEW

File: mathcomp/ssreflect/bigop.v [hunk 1]
```diff
@@ -985,6 +985,10 @@ Lemma big_map_id J (h : J -> R) r (P : pred R) :
      = \big[op/idx]_(j <- r | P (h j)) h j.
 Proof. exact: big_map. Qed.
 
+Lemma big_condT (J : finType) (r : seq J) (A : {pred J}) F :
+  \big[op/idx]_(i in A | true) F i = \big[op/idx]_(i in A) F i.
+Proof. by apply: eq_bigl => i; exact: andbT. Qed.
+
```
Comment (CohenCyril) [inline mathcomp/ssreflect/bigop.v:991]: The sequence `r` is unused
```suggestion
Lemma big_condT (J : finType) (A : {pred J}) F :
  \big[op/idx]_(i in A | true) F i = \big[op/idx]_(i in A) F i.
Proof. by apply: eq_bigl => i; exact: andbT. Qed.
```
And I think it is in the right place.

Comment (Tragicus) [reply mathcomp/ssreflect/bigop.v]: Oops, indeed, thank you.

File: mathcomp/ssreflect/bigop.v [hunk 2]
```diff
@@ -985,6 +985,9 @@ Lemma big_map_id J (h : J -> R) r (P : pred R) :
      = \big[op/idx]_(j <- r | P (h j)) h j.
 Proof. exact: big_map. Qed.
 
+Lemma big_condT (J : finType) (A : {pred J}) F :
+  \big[op/idx]_(i in A | true) F i = \big[op/idx]_(i in A) F i.
+Proof. by apply: eq_bigl => i; exact: andbT. Qed.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/bigop.v:990]:
```suggestion
Proof. by apply: eq_bigl => i; exact: andbT. Qed.

```
Still needs a separation with the next lines

**Review by CohenCyril — APPROVED** [review]

**Comment by CohenCyril** [comment]
failure is unrelated
